US04352818
2.5 g (10.4 mmol) of (S)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one in 20 ml of dimethylformamide are stirred at room temperature for 1 hour and at 75° for 20 minutes with 1.40 g (10.4 mmol) of N-chlorosuccinimide. The solution is poured into water and extracted with chloroform. The chloroform extracts are washed several times with water, dried over magnesium sulphate and evaporated. By chromatography of the residue on a silica gel column there is obtained (S)-1-chloro-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 233°-234.5°.

reactant | (S)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 10.4 mmol, 2.5 g | C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CCC1 | C14H13N3O
reactant | N-chlorosuccinimide | 10.4 mmol, 1.40 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (S)-1-chloro-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | ClC=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CCC1 | C14H12ClN3O
